US08022062B2
6-(4-Acetylbenzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Use a method similar to the Example 380, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 4-acetylbenzyl bromide to give, after chromatography eluting with hexane/EtOAc (15:1), the desired intermediate as a white solid. MS (APCI+) m/z 346 (M+H−Boc)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 4-acetylbenzyl bromide | C(C)(=O)C1=CC=C(CBr)C=C1 | C9H9BrO
product | 6-(4-Acetylbenzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(=O)C1=CC=C(CSC2=C(C=CC=3CCN(CCC32)C(=O)OC(C)(C)C)Cl)C=C1 | C24H28ClNO3S
